US07829572B2
Preparation of 2-(2-methoxyphenyl)-3-((R)-1-phenylpropan-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one
(R)-4-amino-N-(1-phenylpropan-2-yl)-2-(trifluoromethyl)nicotinamide (16.23 g, 50.2 mmol) and ortho-anisaldehyde (8.2 g, 60.2 mmol) were combined along with a catalytic amount of 4-toluenesulfonic acid (0.174 g, 1.0 mmol) in anhydrous toluene (550 mL). This mixture was heated at reflux overnight in a round bottom flask fitted with a Dean-Stark trap. The resultant dark solution was cooled to room temperature, then concentrated in vacuo to a dark brown paste. This paste was suspended in ethyl acetate, and the resultant solids were collected by filtration to provide the product (6.94 g). The filtrate was concentrated in vacuo then purified by silica gel column chromatography using 40-60% ethyl acetate/hexanes as eluant to give 12.1 g of additional product diastereomers (84% total yield). 1H NMR (400 MHz, CDCl3) δ 8.19 (d, 1H), 7.1-7.3 (m, 7H), 6.9 (d, 1H), 6.8 (t, 1H), 6.5 (d, 1H), 5.95 (d, 1H), 5.7 (d, 1H), 4.8 (m, 1H), 3.95 (s, 3H), 3.0 (dd, 1H), 2.4 (dd, 1H), 1.3 (d, 3H). MS m/z 442.4 (M+H)+.

reactant | (R)-4-amino-N-(1-phenylpropan-2-yl)-2-(trifluoromethyl)nicotinamide | 50.2 mmol, 16.23 g | NC1=CC=NC(=C1C(=O)N[C@@H](CC1=CC=CC=C1)C)C(F)(F)F | C16H16F3N3O
reactant | ortho-anisaldehyde | 60.2 mmol, 8.2 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
solvent | toluene | 550 mL | C1(=CC=CC=C1)C | C7H8
catalyst | 4-toluenesulfonic acid | 1.0 mmol, 0.174 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
product | 2-(2-methoxyphenyl)-3-((R)-1-phenylpropan-2-yl)-5-(trifluoromethyl)-2,3-dihydropyrido[4,3-d]pyrimidin-4(1H)-one | 6.94 g | COC1=C(C=CC=C1)C1N(C(C2=C(N1)C=CN=C2C(F)(F)F)=O)[C@@H](CC2=CC=CC=C2)C | C24H22F3N3O2
